US06107329
[(1S)-Benzyl-2-(1,3-dihydro-isoindol-2-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester
N-t-Boc-L-phenylalanine (1 mmol) and isoindoline (J. Org. Chem. 1988, 53, p5382, 70-80% purity, 1 mmol) were coupled according to Procedure A and the product purified by chromatography on silica gel eluted with 20% and 50% ethyl acetate-hexanes giving an amber oil (88 mg, 23%): TSPMS 367 (MH+, 100%).

reactant | N-t-Boc-L-phenylalanine | 1 mmol | CC(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | isoindoline | 1 mmol | C1NCC2=CC=CC=C12 | C8H9N
product | [(1S)-Benzyl-2-(1,3-dihydro-isoindol-2-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(=O)N1CC2=CC=CC=C2C1)CC1=CC=CC=C1)=O | C22H26N2O3
